US08580785B2
a) Preparation of 6-Amino-5-chloro-2-trifluoromethyl-quinoline-7-carboxylic acid triethyl ammonium salt
6-Amino-2-trifluoromethyl-quinoline-7-carboxylic acid (0.50 g, 1.952 mmol is dissolved in dimethyl formamide (10 ml) and treated with N-chlorosuccinamide (0.26 g, 1.952 mmol) and the mixture warmed to 80° C. After 1 hr the reaction is complete as shown by LC/MS analysis. The reaction mixture is cooled, diluted with ethyl acetate, and then washed successively with water and brine. The organic phase is dried over sodium sulphate, filtered and the filtrate concentrated in vacuo. The residue was purified by flash chromatography eluting with eluting with a mixture of toluene, ethyl alcohol, dioxane, triethylamine and water (100:40:20:20:5 parts by volume) to give the title compound as a viscous oil.

reactant | 6-Amino-2-trifluoromethyl-quinoline-7-carboxylic acid | NC=1C=C2C=CC(=NC2=CC1C(=O)O)C(F)(F)F | C11H7F3N2O2
reactant | N-chlorosuccinamide | 1.952 mmol, 0.26 g | ClNC(CCC(=O)N)=O | C4H7ClN2O2
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Amino-5-chloro-2-trifluoromethyl-quinoline-7-carboxylic acid triethyl ammonium salt | C(C)[NH+](CC)CC.NC=1C(=C2C=CC(=NC2=CC1C(=O)[O-])C(F)(F)F)Cl | InChI=1S/C11H6ClF3N2O2.C6H15N/c12-8-4-1-2-7(11(13,14)15)17-6(4)3-5(9(8)16)10(18)19;1-4-7(5-2)6-3/h1-3H,16H2,(H,18,19);4-6H2,1-3H3
